US05198450
To 5 ml of alcoholic hydrogen chloride 1 mmol of N-[4-(4-aminophenyl)butanoyl]thiazolidine was added and dissolved under heating. The mixture was stirred at room temperature for 2 hours. After the reaction, the solvent was evaporated under reduced pressure. To the residue was added anhydrous ether and precipitates thus produced were collected by filtration to obtain 0.28 g of colorless crystals of N-[4-(4-aminophenyl)butanoyl]thiazolidine hydrochloride (yield: 98%).

reactant | hydrogen chloride | 1 mmol, 5 ml | Cl | ClH
reactant | N-[4-(4-aminophenyl)butanoyl]thiazolidine | NC1=CC=C(C=C1)CCCC(=O)N1CSCC1 | C13H18N2OS
product | N-[4-(4-aminophenyl)butanoyl]thiazolidine hydrochloride | yield: 98% | Cl.NC1=CC=C(C=C1)CCCC(=O)N1CSCC1 | InChI=1S/C13H18N2OS.ClH/c14-12-6-4-11(5-7-12)2-1-3-13(16)15-8-9-17-10-15;/h4-7H,1-3,8-10,14H2;1H
